US08383825B2
(S)-6-amino-5-iodo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
To a solution of 6-amino-5-iodonicotinic acid (330 mg, 1.3 mmol), N,N-diisopropylethylamine (0.44 mL, 2.5 mmol), and (S)-(+)-S-methyl-S-phenylsulfoximine (291 mg, 1.9 mmol) in 7.0 mL DMF at room temperature was added BOP (608 mg, 1.4 mmol). The solution was stirred 10 minutes and then heated at 60° C. for 5 hours. The mixture was dissolved in EtOAc, washed with Na2CO3 solution, H2O, brine, dried with anhydrous Na2SO4 and rotary evaporated. The brown oil was purified by chromatography (silica gel, hexane/acetone). The product containing fractions were purified by chromatography one additional time (silica gel, EtOAc/MeOH). To give the title compound as a white foam (354 mg, 71%).

reactant | 6-amino-5-iodonicotinic acid | 1.3 mmol, 330 mg | NC1=NC=C(C(=O)O)C=C1I | C6H5IN2O2
reactant | N,N-diisopropylethylamine | 2.5 mmol, 0.44 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-(+)-S-methyl-S-phenylsulfoximine | 1.9 mmol, 291 mg | C[S@@](=O)(=N)C1=CC=CC=C1 | C7H9NOS
reactant | BOP | 1.4 mmol, 608 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-6-amino-5-iodo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 354 mg, 71% | NC1=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C=C1I | C13H12IN3O2S
